US07601843B2
2-[1-(2-Hydroxyethyl)cyclohexyl]ethanol
After suspending lithium aluminum hydride (11.4 g, 0.300 mol) in tetrahydrofuran (300 mL), a solution of 1,1-cyclohexanediacetic acid (30.0 g, 0.150 mol) in tetrahydrofuran (200 mL) was added dropwise at room temperature. After completion of the dropwise addition, the mixture was stirred for 5 minutes while cooling on ice, and then water (11.5 mL) was added dropwise over a period of 5 minutes while cooling on ice. After stirring for 10 minutes, 15% aqueous sodium hydroxide (11.5 mL) was added dropwise over a period of 5 minutes. Diethyl ether (500 mL, special grade) was added, and after stirring for 5 minutes, water (34.5 mL) was added. The mixture was then stirred for 2 hours while cooling on ice, and then celite was added and the mixture was filtered. The filtrate was concentrated under reduced pressure and azeotropically distilled with toluene to obtain the title compound as a colorless oil (21.7 g).

reactant | lithium aluminum hydride | 0.300 mol, 11.4 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 1,1-cyclohexanediacetic acid | 0.150 mol, 30.0 g | C1(CCCCC1)(CC(=O)O)CC(=O)O | C10H16O4
reactant | sodium hydroxide | 11.5 mL | [OH-].[Na+]
solvent | tetrahydrofuran | 300 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 200 mL | O1CCCC1 | C4H8O
solvent | water | 34.5 mL | O | H2O
solvent | Diethyl ether | 500 mL | C(C)OCC | C4H10O
solvent | water | 11.5 mL | O | H2O
product | 2-[1-(2-Hydroxyethyl)cyclohexyl]ethanol | 21.7 g | OCCC1(CCCCC1)CCO | C10H20O2
